US04242342
3-(Bromomethyl)-2(1H)-Quinoxalinone
O-phenylenediamine (1.0 g., 0.0092 mol.) was dissolved in tetrahydrofuran (50 ml.) and 3-bromopyruvic acid (1.7 g., 0.0102 mol.) added. The reaction mixture was stirred at room temperature for one hour, during which time the product precipitated as a yellow solid. The product was collected by filtration and crystallized from methylene chloride. (0.91 g., m.p. 221°-223° (dec.) 41%)

reactant | O-phenylenediamine | 0.0092 mol, 1.0 g | [2H]C1=C(C(=C(C(=C1[2H])N)N)[2H])[2H] | C6H8N2
reactant | 3-bromopyruvic acid | 0.0102 mol, 1.7 g | BrCC(C(=O)O)=O | C3H3BrO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(Bromomethyl)-2(1H)-Quinoxalinone | BrCC=1C(NC2=CC=CC=C2N1)=O | C9H7BrN2O
